US05306827
Preparation of Ethyl 4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carboxylate
A solution of ethyl 4-(p-chlorophenyl)pyrrole-3-carboxylate (9.0 g, 0.036 mol) in methylene chloride (180 mi) is treated with trifluoromethylsulfenyl chloride (4.9 g, 0.036 mol) with stirring for 45 minutes at -30° C. The reaction mixture is warmed to room temperature and stirred for several hours. Since a TLC shows some starting material present, the reaction mixture is cooled to -30° C., treated with additional trifluoromethylsulfenyl chloride (1.3 g, 0.0095 mol), warmed to room temperature overnight with stirring, washed with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as an off-white solid (12.0 g, mp 161.5°-164.00° C.) which is identified by 1HNMR, 19FNMR and 13CNMR spectral analyses.

reactant | ethyl 4-(p-chlorophenyl)pyrrole-3-carboxylate | 0.036 mol, 9.0 g | ClC1=CC=C(C=C1)C=1C(=CNC1)C(=O)OCC | C13H12ClNO2
reactant | trifluoromethylsulfenyl chloride | 0.036 mol, 4.9 g | FC(SCl)(F)F | CClF3S
reactant | trifluoromethylsulfenyl chloride | 0.0095 mol, 1.3 g | FC(SCl)(F)F | CClF3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carboxylate | 12.0 g | ClC1=CC=C(C=C1)C=1C(=CNC1SC(F)(F)F)C(=O)OCC | C14H11ClF3NO2S
